US07101871B2
Step C: tert-Butyl Hexahydro-4-methyl-3-oxo-1H-1,4-diazepine-1-carboxylate
Sodium hydride (103 mg) was added to a stirred solution of tert-butyl hexahydro-3-oxo-1H-1,4-diazepine-1-carboxylate in DMF (5 mL) at 0° C. After 1 h, iodomethane (0.15 mL) was added, and the resultant mixture was stirred at 0° C., then room temperature overnight. It was diluted with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer was separated, washed sequentially with saturated aqueous sodium bicarbonate solution and brine, dried over sodium sulfate, and concentrated to give the product, which was used without further purification.

reactant | Sodium hydride | 103 mg | [H-].[Na+]
reactant | tert-butyl hexahydro-3-oxo-1H-1,4-diazepine-1-carboxylate | O=C1CN(CCCN1)C(=O)OC(C)(C)C | C10H18N2O3
reactant | iodomethane | 0.15 mL | IC | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | tert-Butyl Hexahydro-4-methyl-3-oxo-1H-1,4-diazepine-1-carboxylate | CN1C(CN(CCC1)C(=O)OC(C)(C)C)=O | C11H20N2O3
